US03931235
3-n-Hexylsulfinyl-4-hydroxy-6-methyl-2-pyrone
3-n-Hexylthio-4-hydroxy-6-methyl-2-pyrone (9.1 g., 0.040 mol), 30% hydrogen peroxide (4.85 g., 0.0440 mol), and 40 ml. glacial acetic acid were combined and stirred at room temperature over night. The clear solution was poured into 200 ml. ice water and the resulting white precipitate was collected and dried in vacuo: m.p. 59°-60°C. The solid was recrystallized from n-hexane to recover 8.0 g. (77%) of the desired compound as white crystalline platelets, m.p. 59°-60°C.

reactant | 3-n-Hexylthio-4-hydroxy-6-methyl-2-pyrone | 0.040 mol, 9.1 g | C(CCCCC)SC=1C(OC(=CC1O)C)=O | C12H18O3S
reactant | hydrogen peroxide | 0.0440 mol, 4.85 g | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-n-Hexylsulfinyl-4-hydroxy-6-methyl-2-pyrone | C(CCCCC)S(=O)C=1C(OC(=CC1O)C)=O | C12H18O4S
